US04931083
1-(4-chlorophenyl)-3-(1-ethoxycarbonylethoxy)-1,2,4-1H-triazole
Six g of 1-(4-chlorophenyl)-3-hydroxy-1,2,4-1H-triazole was added to a suspension of 1.5 g of sodium hydride in 225 ml of dimethylsulfoxide. The mixture was heated on the steam bath for 90 minutes. Then 5.5 g of ethyl 2-bromopropionate was added and the mixture was heated for 90 minutes more. It was then cooled and poured over ice-water, and the solid was collected, dried and recrystallized from toluene to obtain 1.5 g of the desired product, m.p. 62°-64°.

reactant | 1-(4-chlorophenyl)-3-hydroxy-1,2,4-1H-triazole | ClC1=CC=C(C=C1)N1N=C(N=C1)O | C8H6ClN3O
reactant | sodium hydride | 1.5 g | [H-].[Na+]
reactant | ethyl 2-bromopropionate | 5.5 g | BrC(C(=O)OCC)C | C5H9BrO2
solvent | dimethylsulfoxide | 225 ml | CS(=O)C | C2H6OS
product | 1-(4-chlorophenyl)-3-(1-ethoxycarbonylethoxy)-1,2,4-1H-triazole | 1.5 g | ClC1=CC=C(C=C1)N1N=C(N=C1)OC(C)C(=O)OCC | C13H14ClN3O3
